US06576643B2
c) (±)-10,11-Dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]dibenzo[b,f]oxepine-10-acetic acid
A mixture of ethyl (±)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]dibenzo[b,f]oxepine-10-acetate (119 mg, 0.27 mmole) and 0.991 N NaOH (0.545 mL, 0.54 mmole) in absolute EtOH (2 mL) was warmed in an oil bath set at 45° C. After 20 hr, the reaction was concentrated on the rotavap, and the residue was dissolved in H2O (1.5 mL). The solution was filtered to remove insoluble material, and the filtrate was carefully neutralized by dropwise addition of 1.0 N HCl (0.54 mL, 0.54 mmole). The precipitate was collected and dried in high vacuum to afford the title compound (68 mg, 58%) as a white solid: MS (ES) m/e 418.9 (M+H)+. Anal. Calcd for C25H26N2O4. 0.45 HCl: C, 69.05; H, 6.13; N. 6.44. Found: C, 69.25; H, 6.27; N. 6.16.

reactant | ethyl (±)-10,11-dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]dibenzo[b,f]oxepine-10-acetate | 0.27 mmole, 119 mg | CC1=CC(=NC=C1)NCCCOC=1C=CC2=C(OC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O4
reactant | NaOH | 0.54 mmole, 0.991 N, 0.545 mL | [OH-].[Na+]
reactant | HCl | 0.54 mmole, 1.0 N, 0.54 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (±)-10,11-Dihydro-3-[3-(4-methylpyridin-2-ylamino)-1-propyloxy]dibenzo[b,f]oxepine-10-acetic acid | 68 mg, 58% | CC1=CC(=NC=C1)NCCCOC=1C=CC2=C(OC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C25H26N2O4
